US05330985
5.4. (±)-N-[2-[[4-(Aminocarbonyl)pyrimidin-2-yl]amino]ethyl]-2-[[3-[4 -(5-chloro-2-methoxyphenyl)-piperazin-1-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide
2.32 g (4.96 mmol) of (±)-N-(2-aminoethyl)-2-[[3-[4-(5-chloro-2-methoxyphenyl) piperazin-1-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide, 0.8 g (5.1mmol) of 2-chloropyrimidine-4-carboxamide and 1 g (7.2 mmol) of potassium carbonate are introduced, under an argon atmosphere, into 150 ml of acetonitrile in a 0.5 l round-bottomed flask and the mixture is heated at reflux for 17 h.

reactant | (±)-N-(2-aminoethyl)-2-[[3-[4-(5-chloro-2-methoxyphenyl) piperazin-1-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide | 4.96 mmol, 2.32 g | NCCNC(=O)C1=NC(=NC=C1)NCC(CN1CCN(CC1)C1=C(C=CC(=C1)Cl)OC)O | C21H30ClN7O3
reactant | 2-chloropyrimidine-4-carboxamide | 5.1mmol, 0.8 g | ClC1=NC=CC(=N1)C(=O)N | C5H4ClN3O
reactant | potassium carbonate | 7.2 mmol, 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | (±)-N-[2-[[4-(Aminocarbonyl)pyrimidin-2-yl]amino]ethyl]-2-[[3-[4 -(5-chloro-2-methoxyphenyl)-piperazin-1-yl]-2-hydroxypropyl]amino]pyrimidine-4-carboxamide | NC(=O)C1=NC(=NC=C1)NCCNC(=O)C1=NC(=NC=C1)NCC(CN1CCN(CC1)C1=C(C=CC(=C1)Cl)OC)O | C26H33ClN10O4
